* SPICE3 file created from Tgate.ext - technology: sky130A

.subckt x5v_pfet_1_10 S G D B
X0 D G S B sky130_fd_pr__pfet_g5v0d10v5 ad=30 pd=26 as=30 ps=26 w=10 l=1
.ends

.subckt x5v_nfet_1_10 S G D B
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=30 pd=26 as=30 ps=26 w=10 l=1
.ends

.subckt Tgate in out C Cbar VDD VSS
X5v_pfet_1_10_0 in Cbar out VDD x5v_pfet_1_10
X5v_nfet_1_10_0 out C in VSS x5v_nfet_1_10
.ends

